US07176255B2
Preparation of N-allylperylene-3,4-dicarboximide (dye 14)
A mixture of 5 g (15.5 mmol) of perylene-3,4-dicarboxylic anhydride (prepared in accordance with Liebigs Ann. 1995, 1229–1244), 11.4 g (0.2 mol) of allylamine and 1200 ml of N-methylpyrrolidone was heated at 85° C. in a 2 1 autoclave for 7 h and then cooled to room temperature, the autoclave was let down, the solvent was reduced to about 25% of its original volume by concentration, and the precipitation of the crude product was completed by adding four times the amount of methanol. The precipitate formed was isolated by filtration, washed with methanol and dried at 60° C. under reduced pressure. Chromatographic separation on silica gel using 40:1 chloroform/methanol as eluent, followed by twofold recrystallization from chloroform, gave 4.83 g (86%) of the desired end product in the form of brownish red crystals which underwent decomposition at temperatures above 260° C.

reactant | perylene-3,4-dicarboxylic anhydride | 15.5 mmol, 5 g | C1=CC2=C3C(=CC=C4C5=CC=CC6=CC=CC(C1=C34)=C56)C(=O)OC2=O | C22H10O3
reactant | allylamine | 0.2 mol, 11.4 g | C(C=C)N | C3H7N
solvent | N-methylpyrrolidone | 1200 ml | CN1C(CCC1)=O | C5H9NO
product | N-allylperylene-3,4-dicarboximide | C(C=C)N1C(=O)C=2C=CC=3C=4C=CC=C5C=CC=C(C6=CC=C(C2C63)C1=O)C54 | C25H15NO2
